US08242133B2
A mixture of 0.24 g of 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole, 0.14 g of pyrazole, 0.69 g of potassium carbonate and 4 ml of DMF was stirred while heating at 50° C. for two hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate twice. The combined organic layers were washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.22 g of 2-[3-(pyrazole-1-yl)pyridin-4-yl]-5-(trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 58”).

reactant | 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.24 g | FC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H6F4N2O
reactant | pyrazole | 0.14 g | N1N=CC=C1 | C3H4N2
reactant | potassium carbonate | 0.69 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 2-[3-(pyrazole-1-yl)pyridin-4-yl]-5-(trifluoromethyl)benzoxazole | 0.22 g | N1(N=CC=C1)C=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C16H9F3N4O
